US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{3,5-dimethyl-4-[3-oxo-3-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-propyl]-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
To a mixture of 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid (178 mg, 0.33 mmol), EDAC (97 mg, 0.51 mmol) and HOBt (67 mg, 0.5 mmol) in DMF (4 mL) was added (R)-2-pyrrolidin-1-ylmethyl-pyrrolidine (106 mg, 0.68 mmol) and TEA (0.1 mL). The mixture was stirred at rt for 20 hours. The reaction was diluted with water and NaHCO3, extracted with DCM. The combined DCM was concentrated and the residue was purified on a silica gel column to give the titled compound.

reactant | 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid | 0.33 mmol, 178 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CCC(=O)O)C | C25H22Cl2N2O5S
reactant | EDAC | 0.51 mmol, 97 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.5 mmol, 67 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-2-pyrrolidin-1-ylmethyl-pyrrolidine | 0.68 mmol, 106 mg | N1(CCCC1)C[C@@H]1NCCC1 | C9H18N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{3,5-dimethyl-4-[3-oxo-3-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-propyl]-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CCC(N1[C@H](CCC1)CN1CCCC1)=O)C | C34H38Cl2N4O4S
